US06316485B1
To a solution of 3-chloro-1-(3-methoxy-4-nitrophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole (900 mg) in ethanol (30 ml) and tetrahydrofuran (30 ml) were added active carbon (3 g), hydrazine monohydrate (2 ml) and ferric chloride (50 mg). The mixture was refluxed for 2 hours, and filtered. The filtrate was evaporated in vacuo and partitioned between water and dichloromethane. The organic layer was dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo to give 1-(4-amino-3-methoxyphenyl)-3-chloro-5-[4-(methylsulfonyl)phenyl]pyrazole (820 mg).

reactant | 3-chloro-1-(3-methoxy-4-nitrophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole | 900 mg | ClC1=NN(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C17H14ClN3O5S
reactant | hydrazine monohydrate | 2 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(4-amino-3-methoxyphenyl)-3-chloro-5-[4-(methylsulfonyl)phenyl]pyrazole | 820 mg | NC1=C(C=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)Cl)OC | C17H16ClN3O3S
